Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Ampicillin / Keflex / Cefazolin / Cefaclor
 
Attending: ___.
 
Chief Complaint:
flu like symptoms
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HOSPITALIST ADMISSION H&P

HPI:
___ with COPD on 2L home O2, GAVE, GERD, achalasia, recurrent C 
diff, breast cancer, and lung cancer, who presented to ___'s 
office with 1 week of flu like symptoms and R sided abdominal 
pain, referred to the ___ ED.

The patient reports that approx. 1 week ago she began having flu 
like symptoms with chills, nausea, body aches, fatigue, malaise, 
and mild nausea. She lives in an ALF and reports that several 
people there have been sick. She denies sore throat or 
congestion. No change in her baseline dyspnea, O2 requirement, 
or cough. Over the last few days she also started developing 
intermittent, short lived pangs of abdominal pain on the right 
side, not worse with eating. She has been having about 1 loose 
stool per day without any melena, hematochezia, or diarrhea. NO 
dysuria but does endorse increased urinary frequency today. She 
eats very little at baseline and has chronic malnutrition. Her 
"good weight" is 83 lbs, but lately she has lost about 2 lbs.

Her PCP ___ was concerned that her symptoms could either 
represent worsening anemia from GAVE or recurrent C Diff. She 
completed a course of vancomycin for c diff about 4 weeks ago. 
But the patient says her symptoms are not consistent. She did 
have a guaiaic positive stool in clinic. 

In the ED, initial VS were: 98.1, 81, 164/65, 16, 99 2L NC. Labs 
were notable for normal CBC, normal LFTs, metabolic alkalosis 
but otherwise normal CMP, negative troponin, and negative UA. 
She was tender in the RUQ and underwent RUQ US showing no acute 
findings and CT A/P showing bilateral renal cysts but otherwise 
no acute findings. Flu swab was collected, PCR neg. CXR showed 
no acute process.

ROS: As per HPI. 10 point ROS otherwise negative.
 
Past Medical History:
1.  Severe malnutrition.
2.  Depression.
3.  Breast cancer.
4.  Family history of melanoma.
5.  GERD/achalasia/GAVE s/p botox injection ___
6.  Iron deficiency.
7.  Relapsing C diff
8.  COPD/lung CA (carcinoid) s/p L pneumonectomy
9.  Hysterectomy
10. ___ esophagitis
11. Osteoporosis

 
Social History:
___
Family History:
Brother with melanoma
Mother with CHF
Father with multiple CVAs
Sister with dementia, passed away ___ year ago
 
Physical Exam:
Admission exam:
VS: 98, 176/68, 76, 14, 99% on 3L NC
Gen: NAD, lying in bed comfortably in bed, chronically ill 
appearing and thin
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear, no thrush or pharyngeal exudates
Cardiovasc: RRR, ___ holosystolic murmur heard at the apex, no 
___ edema  
Resp: normal effort, no accessory muscle use, breath sounds 
diminished on the left, CTA on the right.
GI: soft, Tender on the right side without rebound or guarding, 
ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. CNs II-XII intact. MAEE.
Psych: Full range of affect

Discharge exam:
VS: T 98   BP 120/45 - 167/67   HR 71 - 88   RR 16    Sat 100% 
on 2L NC
Gen: NAD, sitting in chair, appears comfortable, thin
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear, no thrush or pharyngeal exudates
Cardiovasc: RRR, ___ holosystolic murmur heard at the apex, no 
___ edema  
Resp: normal effort, no accessory muscle use, breath sounds 
diminished on the left, CTA on the right.
GI: soft, nontender to palpation, no rebound or guarding, ND, 
BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. CNs II-XII intact. MAEE.
Psych: Full range of affect
 
Pertinent Results:
Admission labs:
___ 09:30PM   cTropnT-<0.01
___ 08:00PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 01:01PM   LACTATE-1.2
___ 12:50PM   GLUCOSE-101* UREA N-13 CREAT-0.5 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-92* TOTAL CO2-35* ANION GAP-13
___ 12:50PM   estGFR-Using this
___ 12:50PM   ALT(SGPT)-17 AST(SGOT)-33 ALK PHOS-83 TOT 
BILI-0.3
___ 12:50PM   cTropnT-<0.01
___ 12:50PM   proBNP-118
___ 12:50PM   ALBUMIN-4.8
___ 12:50PM URINE  HOURS-RANDOM
___ 12:50PM URINE  HOURS-RANDOM
___ 12:50PM URINE  UHOLD-HOLD
___ 12:50PM URINE  GR HOLD-HOLD
___ 12:50PM   WBC-7.1 RBC-4.05 HGB-11.8 HCT-38.1 MCV-94 
MCH-29.1 MCHC-31.0* RDW-12.0 RDWSD-42.0
___ 12:50PM   NEUTS-85.4* LYMPHS-7.9* MONOS-5.8 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-6.07 AbsLymp-0.56* AbsMono-0.41 
AbsEos-0.01* AbsBaso-0.03
___ 12:50PM   PLT COUNT-307
___ 12:50PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 12:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG

Micro:
Flu PCR negative

Imaging:
___ CT A/P
1. No acute pathology within the abdomen or pelvis to explain 
the patient's pain. 
2. Bilateral renal cysts with a 1.1 cm cortically based lesion 
in the 
interpolar region of the right kidney containing some internal 
nodularity. 
3. Cystic lesion abutting and possibly arising from the tail of 
the pancreas which can also be followed at time of MRI. 
4. Few scattered centrilobular nodular opacities the right lung 
base, 
potentially small airways disease are small region of 
aspiration. 
RECOMMENDATION(S): Nonemergent MRI is recommended for evaluation 
of renal and 
pancreatic cystic lesions. 

___ CXR
Patient is status post left pneumonectomy with complete 
opacification of the left hemi thorax and leftward shift of 
mediastinal structures.  Heart size is difficult to assess as a 
result of the mediastinal shift and complete left hemithorax 
opacification.  Right lung is hyperinflated but clear.  No 
pulmonary edema, focal consolidation or pneumothorax is 
identified.  No acutely displaced fractures are present. 
IMPRESSION: Status post left pneumonectomy with no acute 
cardiopulmonary abnormality 

___ RUQ US
1.  Normal gallbladder. 
2.  Punctate nonobstructing right renal stones. 

 
Brief Hospital Course:
___ with COPD on 2L home O2, GAVE, GERD, achalasia, recurrent C 
diff, breast cancer, and lung cancer, who presented to ___'s 
office with 1 week of flu-like symptoms and referred to the 
___ ED.
.
# ILI: Symptoms are consistent, along with recent sick contacts. 
Flu swab negative. CXR clear. UA negative. No leukocytosis on 
labs.  Did not develop fevers.  Blood cultures from admission 
were NGTD at the time of discharge.  Imaging studies showed no 
evidence of acute abnormality.  She received some gentle IV 
fluids on admission.  Was able to tolerate a regular diet and 
her strength gradually returned.
.
# R sided abdominal pain: CT a/p and RUQ US unrevealing. LFTs 
wnl. Lipase was wnl.  Troponin negative x2.  ProBNP wnl.  
Initially on a bland diet, which the patient tolerated well.  
Advanced to a regular diet, which she also tolerated well, 
without nausea, vomiting, diarrhea or abdominal pain.  Continued 
her on PPI.  Added PRN Colace to her bowel regimen.
.
# GAVE/GERD: Guaiac positive stool noted at ___ ___. H/H here 
stable with no evidence of brisk bleeding, although likely 
hemoconcentrated.  Continued PPI(pantoprazole since aciphex not 
on formulary).  Outpatient colonoscopy/endoscopy per GI.
.
# COPD: Stable on home dose O2.  No evidence of acute COPD 
flare. Continued home inhaled corticosteroid (flovent while in 
house), and proventil prn.
.
# HTN: continued home diltiazem and lisinopril.
.
# Anxiety: continued home lorazepam and remeron.
.
# H/o malnutrition: continued home vit D, folate, ensures, MVI.  
Nutrition evaluated the patient while she was hospitalized, and 
recommended ensure TID w/ meals.
.
#Code status: DNR/DNI
.
#Contact: Sister ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. budesonide unknown units inhalation DAILY 
2. Cyanocobalamin Dose is Unknown  PO DAILY 
3. Cyanocobalamin Dose is Unknown  IM/SC QMONTH 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. Lorazepam 0.5 mg PO BID 
6. Lorazepam 1 mg PO QHS 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Albuterol Inhaler Dose is Unknown  IH Frequency is Unknown 
9. RABEprazole 20 mg oral BID 
10. Acetaminophen 650 mg PO Q6H:PRN pain 
11. Vitamin D 1000 UNIT PO DAILY 
12. FoLIC Acid ___ mcg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Mirtazapine 7.5 mg PO QHS 
15. Lisinopril 10 mg PO DAILY 
16. Vitamin B Complex 1 CAP PO DAILY 
17. Fexofenadine Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. FoLIC Acid ___ mcg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Lorazepam 0.5 mg PO BID 
7. Lorazepam 1 mg PO QHS 
8. Mirtazapine 7.5 mg PO QHS 
9. Multivitamins 1 TAB PO DAILY 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
11. Vitamin B Complex 1 CAP PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth BID PRN Disp 
#*60 Capsule Refills:*3
14. Budesonide unknown  INHALATION DAILY 
15. RABEprazole 20 mg oral BID 
16. Fexofenadine 60 mg PO DAILY:PRN allergies 
17. Cyanocobalamin 1000 mcg IM/SC QMONTH 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Influenza-like illness.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital with symptoms concerning for a 
viral infection.  You initially had abdominal pain, decreased 
appetite and food intake, as well as generalized weakness and 
malaise.  You were given IV fluids when you were admitted.  Your 
appetite improved, you were able to eat several square meals, 
and your strength gradually returned.  At the time of discharge 
you were eating well with no abdominal pain, and were able to 
walk with your walker and with oxygen at your baseline level.  
We encourage you to use your oxygen when you are up and walking 
around or exerting yourself in any way, as it will help to 
minimize your shortness of breath and fatigue with exertion.
It was a pleasure taking care of you during your hospital stay.
 
Followup Instructions:
___